data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
558,610,[CH3:13][N-:14][O+:15]=[CH:16][C:17](=[O:18])[O:19][CH3:20].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[CH:16]([C:17](=[O:18])[O:19][CH3:20])[O:15][N:14]2[CH3:13],water,298.15,24.485329143996,-53.23814556870382
3706,4232,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[C:11](=[NH+:12][C-:13]([CH3:14])[C:15]#[N:16])[C:17]([CH3:18])=[O:19]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:13]([CH3:14])([C:15]#[N:16])[NH:12][C:11]1([C:9]([O:8][CH3:7])=[O:10])[C:17]([CH3:18])=[O:19],water,298.15,25.71714344642212,-5.23847541268117
1530,1689,[CH3:18][N+:19](=[NH:20])[N-:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][CH:12]([F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([CH:12]([F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[NH:20][N:19]([CH3:18])[N:21]2[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,21.356556090862888,-30.91262368721469
4176,4779,[CH3:10][NH:11][C:12](=[O:13])[N-:14][O+:15]=[CH:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[O:15][N:14]1[C:12]([NH:11][CH3:10])=[O:13],water,298.15,11.338968632448358,-28.5524674952602
2140,2374,[CH3:16][O:17][C:18](=[O:19])[N-:20][NH+:21]=[C:22]([C:23]#[N:24])[C:25]([CH3:26])=[O:27].[CH3:1][NH:2][C:3](=[O:4])[C:5]([Br:6])=[C:7]([C:8](=[O:9])[NH:10][CH3:11])[C:12](=[O:13])[NH:14][CH3:15]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]([C:8](=[O:9])[NH:10][CH3:11])([C:12](=[O:13])[NH:14][CH3:15])[N:20]([C:18]([O:17][CH3:16])=[O:19])[NH:21][C:22]1([C:23]#[N:24])[C:25]([CH3:26])=[O:27],water,298.15,29.023337434038467,-0.0693107811588844
2251,2496,[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[NH:8][CH3:9])=[C:10]([C:11](=[O:12])[NH:13][CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:21][C:22]#[N+:23][C-:24]([C:25](=[O:26])[NH:27][CH3:28])[C:29](=[O:30])[O:31][CH3:32]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]([C:11](=[O:12])[NH:13][CH3:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[C:22]([CH3:21])=[N:23][C:24]1([C:25](=[O:26])[NH:27][CH3:28])[C:29](=[O:30])[O:31][CH3:32],water,298.15,24.94126226646642,-17.612648837499762
2922,3257,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[N-:9][N+:10]#[N:11]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:9]([C:7]([NH:6][CH3:5])=[O:8])[N:10]=[N:11]1,water,298.15,29.544440538397183,-13.53628117349699
2285,2532,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([C:13](=[O:14])[O:15][CH3:16])([C:17](=[O:18])[O:19][CH3:20])[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH3:25][C:26](=[O:27])[C:28]([C:29]#[N:30])=[O+:31][O-:32]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13](=[O:14])[O:15][CH3:16])([C:17](=[O:18])[O:19][CH3:20])[CH2:21][CH2:22][CH2:23][CH2:24]1)[O:32][O:31][C:28]2([C:26]([CH3:25])=[O:27])[C:29]#[N:30],water,298.15,9.547374298591947,-55.11234006773074
4015,4600,[CH3:10][O:11][C:12](=[O:13])[CH-:14][NH+:15]=[C:16]([C:17]#[N:18])[C:19]([CH3:20])=[O:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:16]([C:17]#[N:18])([C:19]([CH3:20])=[O:21])[NH:15][CH:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,23.62797125053033,-5.025810667235363
967,1051,[CH3:13][O:14][C:15](=[O:16])[C:17]([C:18]#[N:19])=[O+:20][C-:21]([CH3:22])[C:23]#[N:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:21]([CH3:22])([C:23]#[N:24])[O:20][C:17]2([C:15]([O:14][CH3:13])=[O:16])[C:18]#[N:19],water,298.15,11.82002826157792,-39.98344515974768
780,843,[CH3:1]/[C:2]([F:3])=[C:4](\[CH3:5])[F:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([O+:12]=[C:13]([C:14]([CH3:15])=[O:16])[C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22]>>[CH3:1][C@@:2]1([F:3])[C@:4]([CH3:5])([F:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:20]([CH3:21])=[O:22])[O:12][C:13]1([C:14]([CH3:15])=[O:16])[C:17]([CH3:18])=[O:19],water,298.15,21.070944356099496,-38.85068068393647
2123,2356,[CH3:15][O:16][C:17](=[O:18])[C-:19]([O+:20]=[C:21]([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[C:29]([CH3:30])=[O:31].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:21]([CH3:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[O:20][C:19]2([C:17]([O:16][CH3:15])=[O:18])[C:29]([CH3:30])=[O:31],water,298.15,25.209800797720305,-10.220929577183664
